US07618993B2
To 6-chloronicotinonitrile (0.30 g, 2.2 mmol) was a mixture of 2,2,2-trifluoroethanol (0.19 mL, 2.6 mmol) and potassium tert-butoxide (1M solution in THF, 2.5 mL, 2.5 mmol) added at 0-5° C. The resulting mixture was stirred at ambient temperature for 1 hour. Water was added (20 mL) followed by extraction with ethyl acetate (2×20 mL). The organic layer was dried over sodium sulphate and concentrated in vacuum affording 6-(2,2,2-trifluoroethoxy)nicotinonitrile, 0.42 g (96%). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.76 (d, J=2.26 Hz, 1 H) 8.28 (dd, J=8.53, 2.26 Hz, 1 H) 7.21 (d, J=8.78 Hz, 1 H) 5.09 (q, J=8.95 Hz, 2 H).

reactant | 6-chloronicotinonitrile | 2.2 mmol, 0.30 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | 2,2,2-trifluoroethanol | 2.6 mmol, 0.19 mL | FC(CO)(F)F | C2H3F3O
reactant | potassium tert-butoxide | 2.5 mmol, 1M, 2.5 mL | CC(C)([O-])C.[K+]
solvent | Water | O | H2O
product | 6-(2,2,2-trifluoroethoxy)nicotinonitrile | FC(COC1=NC=C(C#N)C=C1)(F)F | C8H5F3N2O
